US07951805B2
A mixture of 2-iodoaniline (1.100 g, 5.00 mmol), 1-Boc-4-piperidone (1.500 g, 7.50 mmol)), acetic acid (1.0 mL, 17.5 mmol) and sodium triacetoxy borohydride (2.420 g, 11 mmol) in 1,2-dichloroethane (30 mL) was stirred at ambient temperature for 2 days. The reaction was quenched with water, and the organic phase was separated. The aqueous phase was extracted with dichloromethane. The combined organic phase was washed with water, brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified by flash chromatography to afford 4-(2-Iodophenylamino)piperidine-1-carboxylic acid tert-butyl ester (1.560 g, 50%). 1H NMR (300 MHz, CDCl3) δ 7.63 (dd, J=1.5 and 7.8 Hz, 1H), 7.20-7.14 (m, 1H), 6.56 (d, J=8.4 Hz, 1H), 6.41 (dt, J=1.5 and 7.8 Hz, 1H), 3.99-3.95 (m, 2H), 3.48-3.43 (m, 1H), 3.03-2.94 (m, 2H), 2.02-1.97 (m, 2H), 1.52-1.36 (m, 11H).

reactant | 2-iodoaniline | 5.00 mmol, 1.100 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | 1-Boc-4-piperidone | 7.50 mmol, 1.500 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid | 17.5 mmol, 1.0 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 11 mmol, 2.420 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 4-(2-Iodophenylamino)piperidine-1-carboxylic acid tert-butyl ester | 1.560 g, 50% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)I | C16H23IN2O2
